US08283354B2
To a solution of 2-(4-(piperazin-1-yl)quinazolin-2-yl)phenol (250 mg, 0.82 mmol) in CH2Cl2 (6 mL) was added triethylamine (227 μL, 1.63 mmol) followed by the addition of (R)-2-hydroxy-4-methylpentanoic acid (140 mg, 1.06 mmol) and HATU (403 mg, 1.06 mmol). The reaction mixture was stirred at room temperature for 3 h and then quenched with H2O. The aqueous layer was extracted twice with CH2Cl2, dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 CH2Cl2:hexanes gave (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one (265 mg, 77%). LC/MS: m/z 421.30 (M+H)+ at 2.57 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). H NMR (400 MHz, DMSO-d6) δ 8.47 (dd, J=8.3, 1.7 Hz, 1H), 8.12 (d, J=8.3 Hz, 1H) 7.88 (m, 2H), 7.57 (m, 1H), 7.40 (m, 1H), 6.96 (m, 2H), 4.92 (d, J=7.2 Hz, 1H), 4.39 (m, 1H), 3.95 (m, 4H), 3.76 (m, 4H), 1.80 (m, 1H), 1.43 (m, 2H), 0.92 (q, J=3.8 Hz, 6H).

reactant | 2-(4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.82 mmol, 250 mg | N1(CCNCC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C18H18N4O
reactant | triethylamine | 1.63 mmol, 227 μL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-hydroxy-4-methylpentanoic acid | 1.06 mmol, 140 mg | O[C@@H](C(=O)O)CC(C)C | C6H12O3
reactant | HATU | 1.06 mmol, 403 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one | 265 mg, 77% | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O)CC(C)C | C24H28N4O3
